US07423158B2
A solution of toluene-4-sulfonic acid (S)-2-(3-bromophenyl)-2-fluoro-ethyl ester (5 mmol) in THF at room temperature is treated dropwise with a 1M solution of allylmagnesium bromide, stirred at room temperature for 5 h, quenched with saturated NH4Cl and extracted with ethyl acetate. The extracts are combined, washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo to afford 1-bromo-(S)-3-(1-fluoropent-4-en-1-yl)benzene.

reactant | toluene-4-sulfonic acid (S)-2-(3-bromophenyl)-2-fluoro-ethyl ester | 5 mmol | BrC=1C=C(C=CC1)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)F | C15H14BrFO3S
reactant | allylmagnesium bromide | C(C=C)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 1-bromo-(S)-3-(1-fluoropent-4-en-1-yl)benzene | BrC1=CC(=CC=C1)[C@H](CCC=C)F | C11H12BrF
